US04233302
(i) N,N'-bis-[3-[3-[(Dimethylamino)methyl]phenoxy]propyl]-2-nitro-1,1-ethenediamine
3-(3-aminopropoxy)-N,N-dimethylbenzenemethanamine (1.09 g) and 1,1-bis(methylthio)-2-nitroethene (413 mg) were heated as an intimate mixture on a steam bath for 90 minutes. The resulting oil was washed with ether and purified by column chromatography on silica using 2% 0.88 ammonia in methanol to give the title compound as a pale yellow oil (0.74 g). Rf 0.30, silica/2% 0.88 ammonia in methanol.

reactant | 3-(3-aminopropoxy)-N,N-dimethylbenzenemethanamine | 1.09 g | NCCCOC=1C=C(C=CC1)CN(C)C | C12H20N2O
reactant | 1,1-bis(methylthio)-2-nitroethene | 413 mg | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
product | N,N'-bis-[3-[3-[(Dimethylamino)methyl]phenoxy]propyl]-2-nitro-1,1-ethenediamine | 0.74 g | CN(C)CC=1C=C(OCCCNC(=C[N+](=O)[O-])NCCCOC2=CC(=CC=C2)CN(C)C)C=CC1 | C26H39N5O4
